US07495001B2
A] (4-Benzyloxy-naphthalen-1-yloxy)-acetic acid ethyl ester
A mixture of 2 g (8 mmol) of 4-benzyloxy-naphthalen-1-ol [Journal of Medicinal Chemistry (1985), 28(6), 822-41, of 2.67 g (16 mmol) of ethyl bromoacetate and of 3.12 g (9.6 mmol) of cesium carbonate in 30 ml of acetonitrile was stirred at 60° C. for 3 hours. Subsequently, the reaction mixture was evaporated to dryness and the residue was partitioned between water and tert.-butyl methyl ether. The organic phase was separated, washed with water and brine, dried over anhydrous sodium sulfate and finally evaporated. 2.23 g of the title compound were obtained as white crystals after crystallization from n-heptane.

reactant | 4-benzyloxy-naphthalen-1-ol | 8 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C2=CC=CC=C12)O | C17H14O2
reactant | ethyl bromoacetate | 16 mmol, 2.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 9.6 mmol, 3.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (4-Benzyloxy-naphthalen-1-yloxy)-acetic acid ethyl ester | 2.23 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)=O | C21H20O4
